US08580841B2
Step A: Preparation of Cyclopropylmethyl 4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzoate.
To a solution of 4-hydroxy-3-(trifluoromethyl)benzoic acid (0.483 g, 2.343 mmol) in DMF (10 mL) was added Cs2CO3 (2.29 g, 7.03 mmol), followed by (bromomethyl)cyclopropane (0.568 mL, 5.86 mmol). The reaction was stirred at 80° C. for 16 h. The mixture was filtered. The filtrate was concentrated under vacuum and taken up in EtOAc. The organic solution was washed with water (thrice), dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography to give the title compound as an oil (0.643 g). LCMS m/z=315.3 [M+H]+. 1H NMR (400 MHz, CDCl3) δ ppm 0.33-0.44 (m, 4H), 0.59-0.69 (m, 4H), 1.21-1.34 (m, 2H), 4.01 (d, J=6.57 Hz, 2H), 4.15 (d, J=7.20 Hz, 2H), 6.99 (d, J=8.84 Hz, 1H), 8.18 (dd, J=8.72, 2.15 Hz, 1H), 8.28 (d, J=2.02 Hz, 1H).

reactant | 4-hydroxy-3-(trifluoromethyl)benzoic acid | 2.343 mmol, 0.483 g | OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H5F3O3
reactant | Cs2CO3 | 7.03 mmol, 2.29 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 5.86 mmol, 0.568 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Cyclopropylmethyl 4-(Cyclopropylmethoxy)-3-(trifluoromethyl)benzoate | 0.643 g | C1(CC1)COC1=C(C=C(C(=O)OCC2CC2)C=C1)C(F)(F)F | C16H17F3O3
